US08476261B2
10-(3-(1H-pyrazol-1-yl)propylamino)-8-amino-9-fluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carbonitrile
The title compound was prepared from 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carbonitrile and pyrazolepropylamine using synthetic procedures similar to those described in the examples above. 1H-NMR (400 MHz, DMSO-d6) δ 1.16 (2H, t), 1.58 (2H, t), 1.99 (2H, m), 3.65 (2H, m), 4.16 (2H, s), 4.26 (2H, m), 6.29 (1H, s), 7.49 (1H, s), 7.63 (1H, s), 8.04 (1H, s). MS (EP) m/z: 395 (M++1). (Calcd for C20H19FN6O2, 394.40).

reactant | 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carbonitrile | NC1=C2C(C(=CN3C2=C(C(=C1F)F)OCC31CC1)C#N)=O | C14H9F2N3O2
reactant | pyrazolepropylamine | N1N=C(C=C1)CCCN | C6H11N3
product | 10-(3-(1H-pyrazol-1-yl)propylamino)-8-amino-9-fluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carbonitrile | N1(N=CC=C1)CCCNC1=C(C(=C2C(C(=CN3C2=C1OCC31CC1)C#N)=O)N)F | C20H19FN6O2
